US04283408
In 8 ml of methanol were dissolved 800 ml of methyl 3-[(2-guanidinothiazol-4-yl)methylthio]propionimidate and 590 mg of benzenesulfonamide and after causing reaction for 24 hours at room temperature, the solvent was distilled off under reduced pressure. The residue formed was purified by a silica gel column chromatography using a mixture of chloroform and methanol (20:1→10:1) to provide 855 mg of amorphous N-benzenesulfonyl-3-(2-guanidinothiazol-4-yl)methylthio propionamide. The product shows the following physicochemical properties:

reactant | benzenesulfonamide | 590 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | methyl 3-[(2-guanidinothiazol-4-yl)methylthio]propionimidate | 800 ml | N(C(=N)N)C=1SC=C(N1)CSCCC(OC)=N | C9H15N5OS2
solvent | methanol | 8 ml | CO | CH4O
product | N-benzenesulfonyl-3-(2-guanidinothiazol-4-yl)methylthio propionamide | 855 mg | C1(=CC=CC=C1)S(=O)(=O)NC(CCCC=1N=C(SC1)NC(=N)N)=S | C14H17N5O2S3
